US05955636
Process (iii): A process in which prenyl chloride obtained by the reaction of isoprene with hydrogen chloride is allowed to react with acetone in the presence of an equimolar amount of an alkali based on the prenyl chloride to give 6-methyl-5-hepten-2-one (see, e.g., U.S. Pat. Nos. 3,983,175 and 3,984,475).

reactant | prenyl chloride | C(C=C(C)C)Cl | C5H9Cl
reactant | acetone | CC(=O)C | C3H6O
product | 6-methyl-5-hepten-2-one | CC(=CCCC(C)=O)C | C8H14O
